US04186135
According to the method described in Example 2, 42 g of 8-amino-1,4-benzodioxane-5-carboxylic acid were treated with methanol and the resulting compound treated with 33 g of 1-ethyl-2-aminomethylpyrrolidine and then with a solution of 13 g of hydrochloric acid in absolute alcohol. 49 g of N-(1-ethyl-2-pyrrolidylmethyl)-8-amino-1,4-benzodioxane-5-carboxamide dihydrochloride were obtained (M.P.: 173° C.; yield: 60%).

reactant | 8-amino-1,4-benzodioxane-5-carboxylic acid | 42 g | NC1=CC=C(C2=C1OCCO2)C(=O)O | C9H9NO4
reactant | 1-ethyl-2-aminomethylpyrrolidine | 33 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | hydrochloric acid | 13 g | Cl | ClH
solvent | methanol | CO | CH4O
product | N-(1-ethyl-2-pyrrolidylmethyl)-8-amino-1,4-benzodioxane-5-carboxamide dihydrochloride | 49 g, yield: 60% | Cl.Cl.C(C)N1C(CCC1)CNC(=O)C1=CC=C(C=2OCCOC21)N | InChI=1S/C16H23N3O3.2ClH/c1-2-19-7-3-4-11(19)10-18-16(20)12-5-6-13(17)15-14(12)21-8-9-22-15;;/h5-6,11H,2-4,7-10,17H2,1H3,(H,18,20);2*1H
